US04349552
To the above solution of trans,trans-1,3-pentadienyl isocyanate was added a solution of 5-fluorouracil (2.6 g.) in N,N-dimethylacetamide (15 ml.) at 80° C. and stirred for 3 hours at the same temperature. The resultant mixture was diluted with ethyl acetate (100 ml.), washed with water (4 times), dried over magnesium sulfate, filtered and evaporated in vacuo. The residue was recrystallized from diethyl ether to give 1-[N-(trans,trans-1,3-pentadienyl)carbamoyl]-5-fluorouracil.

reactant | trans,trans-1,3-pentadienyl isocyanate | C(=C\C=C\C)/N=C=O | C6H7NO
reactant | 5-fluorouracil | 2.6 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[N-(trans,trans-1,3-pentadienyl)carbamoyl]-5-fluorouracil | C(=C\C=C\C)/NC(=O)N1C(=O)NC(=O)C(=C1)F | C10H10FN3O3
